*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_SVOD_STARTUP_TB_lpe.spi
#else
.include ../../../work/xsch/LELO_SVOD_STARTUP_TB.spice
#endif
.include ../../../design/1812PS.lib
.include ../../../design/XGL6030.lib
*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-4 autostop

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
+ sky130_fd_pr__pfet_01v8__ajunction_mult = 9.9626e-1
+ sky130_fd_pr__pfet_01v8__pjunction_mult = 1.0009e+0


*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD  VSS   dc 20m

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------

.save v(xdut.TEG)
.save v(xdut.VOUT_0V8)
.save v(xdut.VOUT_1V8)

.save v(xdut.VDD_NEG)
.save v(xdut.EN_START)
.save v(xdut.NVT_CONTROL)
.save v(xdut.x1.VX)
.save v(xdut.x1.HSS1_1V8)
.save v(xdut.x1.HSS2_1V8)
.save v(xdut.x1.LSS_1V8)
.save v(xdut.vddcs)
.save v(xdut.OSC)

.save v(xdut.x1.EN_0V8)
.save v(xdut.x1.EN_1V8)
.save v(xdut.x1.EN_LSS)
.save v(xdut.x1.CLK)
.save v(xdut.x1.x8.VREF)

.save v(xdut.x2.VG1)
.save i(v.xdut.v1)

.ic v(xdut.TEG) =20m

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.meas tran ts WHEN v(xdut.VOUT_1V8)=1.8 RISE=1
.meas tran tn WHEN v(xdut.NVT_CONTROL)=-0.1 FALL=1

.control
set num_threads=8
set color0=white
set color1=black
unset askquit




tran 1u 40m
write
quit


.endc

.end
